US08053457B2
[4-(2-Pyridin-2-yl-ethyl)-piperazin-1-yl]acetonitrile
The title compound is synthesized by coupling of 1-(2-Pyridin-2-yl-ethyl)-piperazine (commercially available from ABCR GmbH) and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+H=231.2: CtRet=2.17.

reactant | 1-(2-Pyridin-2-yl-ethyl)-piperazine | N1=C(C=CC=C1)CCN1CCNCC1 | C11H17N3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | [4-(2-Pyridin-2-yl-ethyl)-piperazin-1-yl]acetonitrile | N1=C(C=CC=C1)CCN1CCN(CC1)CC#N | C13H18N4
